US04618677
The procedure described in Example 2 was followed, using 4.3 g of phenyl isocyanate, 12.7 g of 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride, 7.3 g of triethylamine and 100 ml of methylene chloride, to give 9.1 g (53% of theory) of N-phenyl-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride as a white crystalline solid, M.p. >230° C. (dec.).

reactant | phenyl isocyanate | 4.3 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride | 12.7 g | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCS)C=C1
reactant | triethylamine | 7.3 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-phenyl-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride | 9.1 g, 53% | Cl.Cl.C1(=CC=CC=C1)NC(O)=SCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | InChI=1S/C21H28ClN3OS.2ClH/c22-19-9-7-18(8-10-19)17-25-14-12-24(13-15-25)11-4-16-27-21(26)23-20-5-2-1-3-6-20;;/h1-3,5-10,23,26-27H,4,11-17H2;2*1H
